US07001897B2
A solution of 1-benzhydryl-3-hydroxyazetidine (9.00 g, 37.6 mmol) in methanol (270 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (9.00 g) in a water bath (50° C.) for 5.5 hours. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. The residue was partitioned between ethyl acetate and distilled water. The organic layer was concentrated under reduced pressure and dried in vacuo to give a crude product. To a solution of the crude product in a mixture of methylene chloride (82 ml) and methanol (55 ml) were added chloroformic acid p-nitrobenzyl ester (8.90 g, 41.3 mmol) and triethylamine (5.79 ml, 41.3 mmol) in an ice bath. The mixture was stirred at room temperature for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:1)→ethyl acetate as the eluant to afford 3-hydroxy-1-(p-nitrobenzyloxycarbonyl)azetidine (3.52 g, yield 37%) as pale yellow crystals.

reactant | 1-benzhydryl-3-hydroxyazetidine | 37.6 mmol, 9.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | chloroformic acid p-nitrobenzyl ester | 41.3 mmol, 8.90 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 41.3 mmol, 5.79 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 270 ml | CO | CH4O
catalyst | palladium on charcoal | 9.00 g | [Pd] | Pd
solvent | methylene chloride | 82 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 55 ml | CO | CH4O
product | 3-hydroxy-1-(p-nitrobenzyloxycarbonyl)azetidine | 3.52 g, yield 37% | OC1CN(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O5
